US05218000
N-(3-Hydroxycinnamoyl)-spermine
According to the General Procedure using 3-hydroxycinnamic acid (160 mg, 0.97 mMol), dicyclohexylcarbodiimide (226 mg, 1.10 mMol), and spermine (400 mg, 1.98 mMol) in dichloromethane (6 ml), activation during 2 h and coupling over 21 h. The product was eluted over silica gel with dichloromethane/methanol/0.880 ammonia solution (4:2:1). The desired amide was in fractions 15-22 and was homogeneous when monitored by tlc on silica (CH2Cl2 /MeOH/NH4OH, 4:2:1), Rf =0.22, (108 mg, 32%), lyophilisation gave 90 mg of a yellow viscous gum whose spectroscopic data include: UVmax 213 (emax 3 500), 230sh and 375 (emax 3 800) nm; pmr (90 MHz, 2H2O) 1.4-2.0 (m, 8H, 4×CH2 --CH2), 2.6-3.0 (m, 10H, 5×CH2 --N), 3.35 (t, J=7, 2H, CON2H--CH2 --CH2), 6.4 (d, J=16, 1H, CH=CH--CO), 3.55 (s, 2H, Ar--CH2 --CO), 6.6-6.9 (m, 3H, 3×ArH 2,4,6), and 7.2-7.6 (m, 2H, ArH 5 and ArCH=CH)ppm; M+1 349 (FAB matrix m-nitrobenzyl alcohol) C19H32N4O2 requires M+ 348).

reactant | 3-hydroxycinnamic acid | 0.97 mMol, 160 mg | OC=1C=C(C=CC(=O)O)C=CC1 | C9H8O3
reactant | dicyclohexylcarbodiimide | 1.10 mMol, 226 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | spermine | 1.98 mMol, 400 mg | NCCCNCCCCNCCCN | C10H26N4
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | N-(3-Hydroxycinnamoyl)-spermine | 90 mg | OC=1C=C(C=CC(=O)NCCCNCCCCNCCCN)C=CC1 | C19H32N4O2
